US07897607B2
1-Mesityl-5,6-dihydro-1H-pyrrolo[2,3-d]pyridazine-4,7-dione
A mixture of diethyl 1-mesityl-1H-pyrrole-2,3-dicarboxylate (3.4 g, 10.3 mmol), hydrazine monohydrate (2.0 ml, 41.3 mmol) and ethanol (20 ml) was heated under reflux for 48 hours. The mixture was acidified by addition of 5N hydrochloric acid and stirred at 80° C. for 20 min. After cooling, the crystals were collected by filtration to give 2.60 g (94%) of the title compound.

reactant | diethyl 1-mesityl-1H-pyrrole-2,3-dicarboxylate | 10.3 mmol, 3.4 g | C1(=C(C(=CC(=C1)C)C)N1C(=C(C=C1)C(=O)OCC)C(=O)OCC)C | C19H23NO4
reactant | hydrazine monohydrate | 41.3 mmol, 2.0 ml | O.NN
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-Mesityl-5,6-dihydro-1H-pyrrolo[2,3-d]pyridazine-4,7-dione | 2.60 g, 94% | C1(=C(C(=CC(=C1)C)C)N1C=CC2=C1C(NNC2=O)=O)C | C15H15N3O2
